US05616586
9-Bromo-5-(o-ethoxycarbonylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
To a solution of 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (340 mg, 1 mmol), o-ethoxycarbonylaniline (150 μL, 1 mmol), and triethylamine (280 μL, 2 mmol) in dichloromethane (3 mL) was added N,N-bis(2-oxo-3-oxazolydinyl)phosphinic chloride (254 mg, 1 mmol) at 0° C. The mixture was stirred overnight at room temperature and 0.2N hydrochloric acid was added. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated. The residual solid was rinsed with diethyl ether and dried in vacuo to give 290 mg of the title compound (58%): mp>265°~267° C.; 1H NMR (270 MHz, DMSO-d6) δ12.05 (bs, 1H), 10.55 (s, 1H), 8.14 (d, 1H, J=8.1 Hz), 7.89 (d, 2H, J=8.1 Hz), 7.60 (t, 1H, J=8.1 Hz), 7.23 (d, 1H, J=2 Hz), 7.22 (t, 1H, J=8.1 Hz), 7.16 (d, 1H, J=2 Hz), 5.14~5.26 (m, 1H), 4.29 (q, 2H, J=7.2 Hz), 3.06 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.82 (dm, 1H, J=17.1 Hz), 2.62~2.76 (m, 2H), 2.18 (dm, 1H, J=13.5 Hz), 1.81~1.97 (m, 1H), 1.32 (t, 3H, J=7.2 Hz).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 1 mmol, 340 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | o-ethoxycarbonylaniline | 1 mmol, 150 μL | C(C)OC(=O)C1=C(N)C=CC=C1 | C9H11NO2
reactant | triethylamine | 2 mmol, 280 μL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.2N | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 9-Bromo-5-(o-ethoxycarbonylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 290 mg, 58% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=C(C=CC=C2)C(=O)OCC)=O | C22H20BrN3O5
